US06015825
(2R,3S)-2-(2,4-Difluorophenyl)-3-(4-[3-mercapto-4-methyl-1,2,4-triazol-5-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol
A solution of N-methyl-4-{2-[2,4-difluorophenyl]-2-hydroxy-1-[1,2,4-triazol-1-yl]but-3-yl}benzoylthiosemicarbazide (2.1 g, 4.5 mmol) in ethanol (50 ml) was heated under reflux and treated with sodium methoxide solution (30%, 5.5 mmol) in portions over 24 hours. The mixture was reduced in volume to 20 ml under reduced pressure and partitioned between ethyl acetate (100 ml) and water (50 ml). The aqueous layer was further extracted with ethyl acetate (3×50 ml) and the organic extracts combined, washed with brine (50 ml), dried (Na2SO4) and evaporated under reduced pressure.

reactant | N-methyl-4-{2-[2,4-difluorophenyl]-2-hydroxy-1-[1,2,4-triazol-1-yl]but-3-yl}benzoylthiosemicarbazide | 4.5 mmol, 2.1 g | CN(NC(=S)N)C(C1=CC=C(C=C1)C(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)C)=O | C21H22F2N6O2S
reactant | sodium methoxide | 5.5 mmol | C[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (2R,3S)-2-(2,4-Difluorophenyl)-3-(4-[3-mercapto-4-methyl-1,2,4-triazol-5-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)C1=CC=C(C=C1)C=1N(C(=NN1)S)C)O | C21H20F2N6OS
